US05008263
(d) 4-Amino-3-(2-methoxyethoxy)methyl-5-methylaminopyrazole
3-(2-Methoxyethoxy)methyl-1-methyl-5-methylamino-4-nitropyrazole (0.73 g, 3 mmoles), hydrazine hydrate (0.5 ml) and Raney nickel (200 mg) were stirred in ethanol (12 ml) at 50° C. for 1.5 hours. The Raney Nickel was filtered off and the ethanol removed under reduced pressure yielding the title compound (0.64 g, 100%).

reactant | 3-(2-Methoxyethoxy)methyl-1-methyl-5-methylamino-4-nitropyrazole | 3 mmoles, 0.73 g | COCCOCC1=NN(C(=C1[N+](=O)[O-])NC)C | C9H16N4O4
reactant | hydrazine hydrate | 0.5 ml | O.NN
catalyst | Raney nickel | 200 mg | [Ni] | Ni
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 4-Amino-3-(2-methoxyethoxy)methyl-5-methylaminopyrazole | 0.64 g, 100% | NC=1C(=NNC1NC)COCCOC | C8H16N4O2
